US07465731B2
A solution of 10% HCl-MeOH solution (0.75 ml) was added to a mixture of (2E)-3-{6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (170 mg) in MeOH 3 ml) and stirred at 15-25% for 2 hours. The reaction mixture was evaporated in vacuo and the residue was triturated with small amount MeOH and acetone and the precipitate was collected by filtration to give (2E)-3-{6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}-N-hydroxyacrylamide dihydrochloride (107 mg)

reactant | HCl MeOH | 0.75 ml | Cl.CO
reactant | (2E)-3-{6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 170 mg | C(C1=CC=CC=C1)N1CC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NOC1OCCCC1 | C24H30N4O3
solvent | MeOH | 3 ml | CO | CH4O
product | (2E)-3-{6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}-N-hydroxyacrylamide dihydrochloride | 107 mg | Cl.Cl.C(C1=CC=CC=C1)N1CC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO | InChI=1S/C19H22N4O2.2ClH/c24-19(22-25)9-7-15-6-8-18(20-12-15)21-17-10-11-23(14-17)13-16-4-2-1-3-5-16;;/h1-9,12,17,25H,10-11,13-14H2,(H,20,21)(H,22,24);2*1H/b9-7+;;
